* eeschema netlist version 1.1 (spice format) creation date: sunday 09 december 2012 08:37:15 am ist

* Plotting option vplot8_1
* 74hc86
* 74ls32
* 74ls08
* 74hc02
* 74hc04
* 7400
r3  8 0 1000
v2  8 0 pulse(0 5 0 0 0 0.25e-6 0.5e-6)
r2  9 0 1000
r1  4 0 1000
v1  4 0 pulse(0 5 0 0 0 0.125e-6 0.5e-6)
a1 [5] [5_in]  u12adc
a2 [6] [6_in]  u12adc
a3 [5_in 6_in] 9_out u12
a4 [9_out] [9]  u12dac
.model u12 d_xor
.model u12adc adc_bridge(in_low=0.8 in_high=2.0)
.model u12dac dac_bridge(out_low=0.25 out_high=5.0 out_undef=1.8 t_rise=0.5e-9 t_fall=0.5e-9)
a5 [8] [8_in]  u8adc
a6 [4] [4_in]  u8adc
a7 [8_in 4_in] 10_out u8
a8 [10_out] [10]  u8dac
.model u8 d_or
.model u8adc adc_bridge(in_low=0.8 in_high=2.0)
.model u8dac dac_bridge(out_low=0.25 out_high=5.0 out_undef=1.8 t_rise=0.5e-9 t_fall=0.5e-9)
a9 [8] [8_in]  u7adc
a10 [4] [4_in]  u7adc
a11 [8_in 4_in] 2_out u7
a12 [2_out] [2]  u7dac
.model u7 d_and
.model u7adc adc_bridge(in_low=0.8 in_high=2.0)
.model u7dac dac_bridge(out_low=0.25 out_high=5.0 out_undef=1.8 t_rise=0.5e-9 t_fall=0.5e-9)
a13 [2] [2_in]  u9adc
a14 [10] [10_in]  u9adc
a15 [2_in 10_in] 7_out u9
a16 [7_out] [7]  u9dac
.model u9 d_nor
.model u9adc adc_bridge(in_low=0.8 in_high=2.0)
.model u9dac dac_bridge(out_low=0.25 out_high=5.0 out_undef=1.8 t_rise=0.5e-9 t_fall=0.5e-9)
a17 [7] [7_in]  u11adc
a18 7_in 6_out u11
a19 [6_out] [6]  u11dac
.model u11 d_inverter
.model u11adc adc_bridge(in_low=0.8 in_high=2.0)
.model u11dac dac_bridge(out_low=0.25 out_high=5.0 out_undef=1.8 t_rise=0.5e-9 t_fall=0.5e-9)
a20 [2] [2_in]  u10adc
a21 [10] [10_in]  u10adc
a22 [2_in 10_in] 5_out u10
a23 [5_out] [5]  u10dac
.model u10 d_nand
.model u10adc adc_bridge(in_low=0.8 in_high=2.0)
.model u10dac dac_bridge(out_low=0.25 out_high=5.0 out_undef=1.8 t_rise=0.5e-9 t_fall=0.5e-9)

.tran  10e-09 1e-06 0e-00

* Control Statements 
.control
run
plot v(8) v(4) v(9) 
.endc
.end
